US08492582B2
Dioxane (5.0 mL) and a 4 mol/L aqueous solution of sodium hydroxide (0.20 mL) were added to the obtained methyl 2-(2-acetoxy-5-isopropoxybenzamido)-4-phenylbenzoate (0.072 g), followed by stirring at 50 to 60° C. for 4 hours. The reaction mixture was cooled to room temperature, and a 4 mol/L aqueous solution of sodium hydroxide (0.081 mL) was added thereto, followed by stirring at 55 to 60° C. for 2 hours. The reaction mixture was cooled to room temperature, and a 4 mol/L aqueous solution of sodium hydroxide (0.040 mL) was added thereto, followed by stirring at 60° C. for 1 hour and 30 minutes. The reaction mixture was cooled to room temperature, and a 10% aqueous solution of citric acid (9 mL) was added thereto. The solid substance was collected by filtration to obtain 0.039 g of 2-(2-hydroxy-5-isopropoxybenzamido)-4-phenylbenzoic acid as a white solid.

reactant | sodium hydroxide | 0.20 mL | [OH-].[Na+]
reactant | methyl 2-(2-acetoxy-5-isopropoxybenzamido)-4-phenylbenzoate | 0.072 g | C(C)(=O)OC1=C(C(=O)NC2=C(C(=O)OC)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)OC(C)C | C26H25NO6
reactant | sodium hydroxide | 0.081 mL | [OH-].[Na+]
reactant | sodium hydroxide | 0.040 mL | [OH-].[Na+]
reactant | citric acid | 9 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | Dioxane | 5.0 mL | O1CCOCC1 | C4H8O2
product | 2-(2-hydroxy-5-isopropoxybenzamido)-4-phenylbenzoic acid | 0.039 g | OC1=C(C(=O)NC2=C(C(=O)O)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)OC(C)C | C23H21NO5
